US07452893B2
To a solution of tert-butyl [(cis-4-{[methoxy(methyl)amino]carbonyl}cyclohexyl)methyl]carbamate (4.51 g, 15.0 mmol) in dry tetrahydrofuran (15 ml) under nitrogen cooled in an ice-bath was added dropwise via syringe over five minutes a 1M solution of phenethyl magnesium bromide in tetrahydrofuran (60 ml, 60 mmol, 4 equivalents). The mixture was stirred 18 hours while warming from ice-bath temperature to ambient temperature. The reaction was quenched by addition of saturated ammonium chloride solution (60 ml). The mixture was diluted with ethyl acetate (240 ml) and the layers were separated. The organic layer was washed with water (60 ml), and brine (60 ml), dried (sodium sulfate), filtered, and the solvent evaporated under reduced pressure to give crude product (6.30 g) as a yellow oil. The crude product was purified by flash column chromatography on silica gel, eluting with ethyl acetate/hexane (16:84 increasing to 25:75) to give tert-butyl {[cis-4-(3-phenylpropanoyl)cyclohexyl]methyl}carbamate (3.50 g, 68%) as a white solid: 1H NMR (CDCl3) 7.27 (2H, m), 7.18 (3H, m), 4.55 (1H, br s), 2.99 (2H, t, J 6.5 Hz), 2.88 (2H, t, J 7.5 Hz), 2.75 (2H, t, J 7.5 Hz), 2.44 (1H, m), 1.88 (2H, m), 1.53 (4H, m), 1.43 (9H, s), 1.26 (3H, t, J 7 Hz): MS: 346.3 (M+1).

reactant | tert-butyl [(cis-4-{[methoxy(methyl)amino]carbonyl}cyclohexyl)methyl]carbamate | 15.0 mmol, 4.51 g | CON(C(=O)[C@H]1CC[C@H](CC1)CNC(OC(C)(C)C)=O)C | C15H28N2O4
reactant | phenethyl magnesium bromide | C(CC1=CC=CC=C1)[Mg]Br
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mmol, 60 ml, 4 equivalents | O1CCCC1 | C4H8O
product | tert-butyl {[cis-4-(3-phenylpropanoyl)cyclohexyl]methyl}carbamate | 3.50 g, 68% | C1(=CC=CC=C1)CCC(=O)[C@H]1CC[C@H](CC1)CNC(OC(C)(C)C)=O | C21H31NO3
